US04640913
1-Hexadecyl-2-methoxybenzene
To a refluxing solution of about 35.3 g of hexadecyl iodide in tetrahydrofuran was added a solution of about 37.4 g of bromoanisole and about 4.86 g of magnesium in tetrahydrofuran which had been refluxed for about 2 hours. An about 10 ml portion of about 0.1M lithium cupric chloride was added, the mixture was refluxed about 2 hours and stirred at room temperature for about 16 hours giving about 34 g of the desired reagent.

reactant | hexadecyl iodide | about 35.3 g | C(CCCCCCCCCCCCCCC)I | C16H33I
reactant | bromoanisole | about 37.4 g | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | magnesium | about 4.86 g | [Mg] | Mg
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-Hexadecyl-2-methoxybenzene | about 34 g | C(CCCCCCCCCCCCCCC)C1=C(C=CC=C1)OC | C23H40O
